US05476863
(2) Synthesis of (3,4,5-trimethoxy)phenylacetic acid
3,4,5-trimethoxyphenyl acetonitrile 5.5 g was dissolved into 50 ml of methanol/water (9:1). To this 1.5 g of sodium hydroxide was added and they were then stirred and refluxed for 5.5 hours. The temperature of the reactive liquid was lowered down to room temperature and neutralized with 2N hydrochloric acid, and the methanol was distilled off under reduced pressure. Extraction was performed thrice by means of 100 ml of chloroform. After distilling off the solvent under reduced pressure, 5.8 g of captioned compound was obtained.

reactant | 3,4,5-trimethoxyphenyl acetonitrile | 5.5 g | COC=1C=C(C=C(C1OC)OC)CC#N | C11H13NO3
reactant | sodium hydroxide | 1.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | methanol water | 50 ml | CO.O
product | (3,4,5-trimethoxy)phenylacetic acid | 5.8 g | COC=1C=C(C=C(C1OC)OC)CC(=O)O | C11H14O5
